US05703188
To a 250 mL flask was added vinylbenzyl chloride (7.63 g, 0.050 mol), concentrated aqueous ammonia (9.8 mL), and isopropanol (40 mL). The mixture was stirred for one week, at which point a large quantity of crystalline material (ammonium chloride) had precipitated. The solid was filtered off and washed with isopropanol. The mother liquor was evaporated on a rotary evaporator until no ammonia odor could be detected. Isopropanol (50 mL) was then added, and the mixture refrigerated for several hours. Following refrigeration, ammonium chloride which had precipitated was filtered off to yield 4-aminomethylstyrene which was used without further purification.

reactant | vinylbenzyl chloride | 0.050 mol, 7.63 g | C(=C)C(C1=CC=CC=C1)Cl | C9H9Cl
reactant | ammonia | 9.8 mL | N | H3N
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | isopropanol | 40 mL | C(C)(C)O | C3H8O
product | 4-aminomethylstyrene | NCC1=CC=C(C=C)C=C1 | C9H11N
